US09212141B2
In a typical reaction, N-(5,5-diethoxy-1,1,1-trifluoro-pent-3-yn-2-ylidene)-4-methoxyaniline is mixed with about a 2.5 to 3 fold excess of p-chlorobenzylamine and about a 2.5 to 3 fold excess of cesium carbonate in anhydrous tetrahydrofuran. The mixture is heated at about 80° C. until the reaction is complete. After cooling, an extraction solvent like a halogenated hydrocarbon is added to the mixture along with water. The organic layer is recovered, washed with brine and dried. The solvent is evaporated to provide crude 2-(4-chlorophenyl)-6-(diethoxymethyl)-3-fluoro-N-(4-methoxyphenyl)pyridin-4-amine.

reactant | N-(5,5-diethoxy-1,1,1-trifluoro-pent-3-yn-2-ylidene)-4-methoxyaniline | C(C)OC(C#CC(C(F)(F)F)=NC1=CC=C(C=C1)OC)OCC | C16H18F3NO3
reactant | p-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(4-chlorophenyl)-6-(diethoxymethyl)-3-fluoro-N-(4-methoxyphenyl)pyridin-4-amine | ClC1=CC=C(C=C1)C1=NC(=CC(=C1F)NC1=CC=C(C=C1)OC)C(OCC)OCC | C23H24ClFN2O3
